US05962457
To a mixture of fused zinc chloride (2.13 g, 15.6 mmol) and dioxane (75 mL), 2-methyl-3-(2-methylphenyl)-3H-thieno[3,2-d]pyrimidin-4-one (2.0 g, 7.81 mmol, preparation 2), and acetic anhydride (2.2 mL, 23.4 mmol) was added 2-pyridine carboxaldehyde (2.2 mL, 23.4 mmol). The reaction was refluxed 1.5 hours, cooled to ambient temperature, and diluted with aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate and the organic extracts were washed with water and brine, dried over sodium sulfate and concentrated to leave a dark residue. This material was flash chromatographed on silica gel (45×125 mm). Elution with 20% ethyl acetate/hexane removed an unweighed impurity. Continued elution with 40% ethyl acetate/hexane gave a sticky yellow foam. The foam was triturated with 5% ethyl acetate/hexane to yield 1.9 g (70%) of 3-(2-methyl-phenyl)-2-[2-pyrid-2-yl-vinyl]-3H-thieno[3,2-d]pyrimidin-4-one as a yellow solid.

reactant | dioxane | 75 mL | O1CCOCC1 | C4H8O2
reactant | 2-methyl-3-(2-methylphenyl)-3H-thieno[3,2-d]pyrimidin-4-one | 7.81 mmol, 2.0 g | CC=1N(C(C2=C(N1)C=CS2)=O)C2=C(C=CC=C2)C | C14H12N2OS
reactant | acetic anhydride | 23.4 mmol, 2.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-pyridine carboxaldehyde | 23.4 mmol, 2.2 mL | N1=C(C=CC=C1)C=O | C6H5NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(2-methyl-phenyl)-2-[2-pyrid-2-yl-vinyl]-3H-thieno[3,2-d]pyrimidin-4-one | 1.9 g, 70% | CC1=C(C=CC=C1)N1C(=NC2=C(C1=O)SC=C2)C=CC2=NC=CC=C2 | C20H15N3OS
